US06258812B1
66.3) 1-Chloro-4-(4-pyrimidinylmethyl)phthalazine hydrochloride
850 mg (3.57 mmol) 4-(4-pyrimidinylmethyl)-1 (2H)-phthalazinone in 15 ml acetonitrile is mixed with 1.78 ml (7.14 mmol) 4N HCl solution in dioxane and finally with 1.14 ml (12.5 mmol) phosphoryl chloride. After stirring for 36 h at 50° C., the red suspension is filtered and washed with acetonitrile: FAB MS (M−H)+=255. Further product is obtainable from the evaporated filtrate by distribution between dichioromethane and sat. NaHCO3 solution.

reactant | 4-(4-pyrimidinylmethyl)-1 (2H)-phthalazinone | 3.57 mmol, 850 mg | N1=CN=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C13H10N4O
reactant | HCl | 7.14 mmol, 4N, 1.78 ml | Cl | ClH
reactant | phosphoryl chloride | 12.5 mmol, 1.14 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-Chloro-4-(4-pyrimidinylmethyl)phthalazine hydrochloride | Cl.ClC1=NN=C(C2=CC=CC=C12)CC1=NC=NC=C1 | InChI=1S/C13H9ClN4.ClH/c14-13-11-4-2-1-3-10(11)12(17-18-13)7-9-5-6-15-8-16-9;/h1-6,8H,7H2;1H
